US04666902
6-(4-(Aminocarbonylmethoxy)-phenyl)-5-hydroxymethyl-2,3,4,5-tetrahydropyridazin-3-one
11.3 g (0.043 mol) of 4-(4-(aminocarbonylmethoxy)-phenyl)-carbonyl-γ-butyrolactone and 2.4 g (0.048 mol) of hydrazine hydrate are reacted in 70 ml of ethanol, as described above.

reactant | 4-(4-(aminocarbonylmethoxy)-phenyl)-carbonyl-γ-butyrolactone | 0.043 mol, 11.3 g | NC(=O)COC1=CC=C(C=C1)C1CC(C(=O)O1)=C=O | C13H11NO5
reactant | hydrazine hydrate | 0.048 mol, 2.4 g | O.NN
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | 6-(4-(Aminocarbonylmethoxy)-phenyl)-5-hydroxymethyl-2,3,4,5-tetrahydropyridazin-3-one | NC(=O)COC1=CC=C(C=C1)C=1C(CC(NN1)=O)CO | C13H15N3O4
